US06972288B1
4-[(3-Bromophenyl)amino]-6-{[4-(3-{N-[(ethoxycarbonyl)methyl]-N-methylamino)propylamino)-1,4-dioxo-2-buten-1-yl]amino}-quinazoline
106 mg of benzotriazol-1-yl-N-tetramethyl-uronium-tetrafluoroborate and 68 mg of 1-hydroxybenzotriazole are added to a solution of 200 mg of 4-[(3-bromophenyl)amino]-6-{[(2-carboxyvinyl)carbonyl]amino}-quinazoline in 2.5 ml of dimethyl-formamide. The solution is stirred for 20 minutes at ambient temperature, then 0.5 ml of Hünig's base and 148 mg of 3-{N-[(ethoxycarbonyl)methyl]-N-methylamino}propylamine, dissolved in 0.5 ml of dimethylformamide, are added. The reaction mixture is stirred for a further two hours at ambient temperature before being poured onto 50 ml of water for working king up. The aqueous phase is extracted with ethyl acetate, the combined organic phases are washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The crude product is purified by chromatography on a silica gel column with methylene chloride/ethanol (20:1 to 9:1). Yield: 106 mg (39% of theory), Melting point: 278-279° C. Mass spectrum (ESI*): m/z=569, 571 [M+H]*

reactant | 1-hydroxybenzotriazole | 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-[(3-bromophenyl)amino]-6-{[(2-carboxyvinyl)carbonyl]amino}-quinazoline | 200 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(=O)C=CC(=O)O | C18H13BrN4O3
reactant | Hünig's base | 0.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{N-[(ethoxycarbonyl)methyl]-N-methylamino}propylamine | 148 mg | C(C)OC(=O)CN(C)CCCN | C8H18N2O2
solvent | dimethyl-formamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-[(3-Bromophenyl)amino]-6-{[4-(3-{N-[(ethoxycarbonyl)methyl]-N-methylamino)propylamino)-1,4-dioxo-2-buten-1-yl]amino}-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CC(=O)NCCCN(C)CC(=O)OCC)=O | C26H29BrN6O4
